US05356886
A solution of diisopropyl (E)-4-(t-butyldimethylsilyloxy)but-1-enylphosphonate (0.84 g, 2.40 mmol) in acetic acid-water (2:1) (10 ml) was stirred at 70° C. for 2 hr. The solvent was removed and the residue purified by column chromatography on silica gel eluting with acetone-hexane (1:1) to give diisopropyl (E)-4-hydroxybut-1-enylphosphonate as a gum (0.43 g, 76%); νmax (film) 3380, 2970, 1625, 1460, 1380, 1370, 1220 and 980 cm-1 ; δH (CDCl3) 1.32 (12H, dd, J 9 Hz and 6 Hz, CH(CH3)2), 1.85 (1H, br.s, OH), 2.50 (2H, m, CH2), 3.76 (2H, t, J 6 Hz, CH2O ), 4.69 (2H, m, CH(CH3)2), 5.80 (1H, dd, J 16 Hz and 18 Hz, PCH=CH) 6.75 (1H, ddt, J 7 Hz, 17 Hz and 22 Hz, PCH=CH); CIMS (isobutane) 237 (MH+).

reactant | diisopropyl (E)-4-(t-butyldimethylsilyloxy)but-1-enylphosphonate | 2.40 mmol, 0.84 g | [Si](C)(C)(C(C)(C)C)OCC/C=C/P(OC(C)C)(OC(C)C)=O | C16H35O4PSi
solvent | acetic acid water | 10 ml | C(C)(=O)O.O
product | diisopropyl (E)-4-hydroxybut-1-enylphosphonate | 0.43 g, 76% | OCC/C=C/P(OC(C)C)(OC(C)C)=O | C10H21O4P
